US08303844B2
5.1 g (13.1 mmol) of 8-ethoxy-5,6-difluoro-3-(4-propylcyclohexyl)-3H-benzo[f]chromene are hydrogenated at atmospheric pressure in THF and in the presence of Pd/C (5% of Pd). The reaction solution is filtered, and the filtrate is evaporated to dryness. The residue is recrystallised from ethyl acetate, giving 8-ethoxy-5,6-difluoro-3-(4-propylcyclohexyl)-2,3-dihydro-1H-benzo[f]chromene as a colourless solid (m.p. 158° C.).

reactant | 8-ethoxy-5,6-difluoro-3-(4-propylcyclohexyl)-3H-benzo[f]chromene | 13.1 mmol, 5.1 g | C(C)OC1=CC2=C(C=3C=CC(OC3C(=C2F)F)C2CCC(CC2)CCC)C=C1 | C24H28F2O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 8-ethoxy-5,6-difluoro-3-(4-propylcyclohexyl)-2,3-dihydro-1H-benzo[f]chromene | C(C)OC1=CC2=C(C=3CCC(OC3C(=C2F)F)C2CCC(CC2)CCC)C=C1 | C24H30F2O2
